US04585773
Step (a): Preparation of N-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]phthalimide
This was carried out with the method and molar ratios of Step (a) of Example I with 0.026 mol of N-(2-methoxyphenyl)piperazine being utilized and with N-(2-bromoethyl)phthalimide being utilized in place of N-(3-bromopropyl)phthalimide. The reaction afforded 4.25 g of a white solid (45% yield); mp 76°-81° C. Spectral data are consistent with the assigned structure. This material was used without further purification.

reactant | N-(2-methoxyphenyl)piperazine | 0.026 mol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
product | N-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]phthalimide | 4.25 g, 45% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O3
